US08541404B2
A mixture of 8-pyridin-3-yl-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinoline-4-one (900 mg, 3.60 mmol) and Lawessons reagent (1.45 g, 3.60 mmol) was refluxed in a mixture of 50 ml toluene and 5 ml THF for 2 h. After evaporation of the solvent under reduced pressure, the residue was purified by flash chromatography on silica gel (hexanes/ethyl acetate, 1/1, Rf=0.25). 8-Pyridin-3-yl-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinoline-4-thione was obtained as a yellow solid (155 mg, 0.58 mmol, 26%), mp (HCl salt, THF) 283° C. 1H-NMR (500 MHz, CDCl3): δ=2.96 (t, 3J=7.9 Hz, 2H), 3.25 (t, 3J=7.6 Hz, 2H), 3.29 (t, 3J=8.0 Hz, 2H), 4.42 (t, 3J=8.2 Hz, 2H), 7.23 (s, 1H), 7.33 (s, 1H), 7.34 (ddd, 3J=7.9 Hz, 3J=4.7 Hz, 5J=0.6 Hz, 1H), 7.81 (ddd, 3J=7.9 Hz, 4J=2.5 Hz, 4J=1.9 Hz, 1H), 8.57 (dd, 3J=4.7 Hz, 4J=1.6 Hz, 1H), 8.59 (d, 4J=2.2 Hz, 1H). 13C-NMR (125 MHz, CDCl3): δ=23.5, 27.1, 40.3, 52.0, 122.7, 123.0, 123.6, 125.1, 131.7, 134.2, 135.2, 136.4, 139.6, 148.1, 148.5, 192.5. MS m/z 267.10 (MH+).

reactant | 8-pyridin-3-yl-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinoline-4-one | 3.60 mmol, 900 mg | N1=CC(=CC=C1)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C16H14N2O
reactant | Lawessons reagent | 3.60 mmol, 1.45 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | HCl | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 8-Pyridin-3-yl-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinoline-4-thione | N1=CC(=CC=C1)C=1C=C2CCC(N3C2=C(C1)CC3)=S | C16H14N2S
